* /home/fossee/esim-workspace/diode_characteristics/diode_characteristics.cir

v1 in gnd  dc 1
d1  in out d
r1  net-_r1-pad1_ gnd 1k
* u1  out net-_r1-pad1_ plot_i2
v_u1 out net-_r1-pad1_ 0
.dc v1 0e-00 1e-00 0.01e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u1)
.endc
.end
